US06288096B1
3.52 g (11 mmole) 4-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate was dissolved in 150 ml ethanol. 2.29 g (33 mmole) hydroxylamine hydrochloride and 3.6 g (44 mmole) sodium acetate in 30 ml water were added. The reaction mixture was stirred at 50° C. for 1 h 45 minutes. The solvent was evaporated in vacuo and water was added to give a white precipitate, which was filtered off and washed with hexane to give 3.3 g (yield 89%) of 4-{2-[4-(hydroxyiminomethyl)phenoxy]ethyl}phenyl methanesulfonate.

reactant | 4-[2-(4-formylphenoxy)ethyl]phenyl methanesulfonate | 11 mmole, 3.52 g | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=O | C16H16O5S
reactant | hydroxylamine hydrochloride | 33 mmole, 2.29 g | Cl.NO
reactant | sodium acetate | 44 mmole, 3.6 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 4-{2-[4-(hydroxyiminomethyl)phenoxy]ethyl}phenyl methanesulfonate | 3.3 g, yield 89% | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C=NO | C16H17NO5S
